************************************************************************
* auCdl Netlist:
* 
* Library Name:  PROJLib
* Top Cell Name: Multiplier
* View Name:     schematic
* Netlisted on:  Jan  2 23:14:45 2023
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: PROJLib
* Cell Name:    AND2_TG
* View Name:    schematic
************************************************************************

.SUBCKT AND2_TG A B GND VDD Y
*.PININFO A:I B:I Y:O GND:B VDD:B
MPM2 net14 A VDD VDD p18 W=440n L=180n m=1
MPM1 B net14 Y VDD p18 W=220n L=180n m=1
MPM0 GND A Y VDD p18 W=220n L=180n m=1
MNM2 net14 A GND GND n18 W=220n L=180n m=1
MNM1 B A Y GND n18 W=220n L=180n m=1
MNM0 GND net14 Y GND n18 W=220n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    MA
* View Name:    schematic
************************************************************************

.SUBCKT MA A B C CIN GND S VDD
*.PININFO A:I B:I CIN:I C:O S:O GND:B VDD:B
MNM1 C net168 GND GND n18 W=440n L=180n m=1
MNM0 S net171 GND GND n18 W=440n L=180n m=1
MNM24 net171 CIN net197 GND n18 W=440n L=180n m=1
MNM23 net171 net168 net186 GND n18 W=440n L=180n m=1
MNM22 net168 A net201 GND n18 W=440n L=180n m=1
MNM21 net168 CIN net163 GND n18 W=440n L=180n m=1
MNM20 net197 A net198 GND n18 W=440n L=180n m=1
MNM19 net186 CIN GND GND n18 W=440n L=180n m=1
MNM18 net186 B GND GND n18 W=440n L=180n m=1
MNM17 net186 A GND GND n18 W=440n L=180n m=1
MNM16 net201 B GND GND n18 W=440n L=180n m=1
MNM15 net163 B GND GND n18 W=440n L=180n m=1
MNM14 net163 A GND GND n18 W=440n L=180n m=1
MNM13 net198 B GND GND n18 W=440n L=180n m=1
MPM25 net199 A VDD VDD p18 W=880n L=180n m=1
MPM24 net200 B net199 VDD p18 W=880n L=180n m=1
MPM23 net172 CIN VDD VDD p18 W=880n L=180n m=1
MPM22 net172 B VDD VDD p18 W=880n L=180n m=1
MPM21 net172 A VDD VDD p18 W=880n L=180n m=1
MPM20 net202 B VDD VDD p18 W=880n L=180n m=1
MPM19 net165 B VDD VDD p18 W=880n L=180n m=1
MPM18 net165 A VDD VDD p18 W=880n L=180n m=1
MPM16 net171 CIN net200 VDD p18 W=880n L=180n m=1
MPM15 net171 net168 net172 VDD p18 W=880n L=180n m=1
MPM14 net168 A net202 VDD p18 W=880n L=180n m=1
MPM12 net168 CIN net165 VDD p18 W=880n L=180n m=1
MPM1 C net168 VDD VDD p18 W=880n L=180n m=1
MPM0 S net171 VDD VDD p18 W=880n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    MUX
* View Name:    schematic
************************************************************************

.SUBCKT MUX GND I0 I1 INVS S VDD VOUT
*.PININFO I0:I I1:I INVS:I S:I VOUT:O GND:B VDD:B
MPM1 I1 INVS VOUT VDD p18 W=440n L=180n m=1
MPM0 I0 S VOUT VDD p18 W=440n L=180n m=1
MNM1 I1 S VOUT GND n18 W=440n L=180n m=1
MNM0 I0 INVS VOUT GND n18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv GND VDD VI VOUT
*.PININFO VI:I VOUT:O GND:B VDD:B
MPM0 VOUT VI VDD VDD p18 W=880n L=180n m=1
MNM0 VOUT VI GND GND n18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    CSA_B
* View Name:    schematic
************************************************************************

.SUBCKT CSA_B A B CI COUT GND INVCI INVCOUT S VDD
*.PININFO A:I B:I CI:I INVCI:I COUT:O INVCOUT:O S:O GND:B VDD:B
MPM3 net359 A VDD VDD p18 W=880n L=180n m=1
MPM2 net366 net362 VDD VDD p18 W=440n L=180n m=1
MPM1 net362 B VDD VDD p18 W=440n L=180n m=1
MPM0 net362 A VDD VDD p18 W=440n L=180n m=1
MPM4 net366 B net359 VDD p18 W=880n L=180n m=1
MPM8 net368 A VDD VDD p18 W=880n L=180n m=1
MPM7 net368 B VDD VDD p18 W=880n L=180n m=1
MPM9 net365 net363 net368 VDD p18 W=880n L=180n m=1
MPM6 net363 B net361 VDD p18 W=880n L=180n m=1
MPM5 net361 A VDD VDD p18 W=880n L=180n m=1
XI0 GND net358 net357 INVCI CI VDD S / MUX
XI2 GND net353 net354 INVCI CI VDD COUT / MUX
XI1 GND net362 net363 INVCI CI VDD INVCOUT / MUX
MNM0 net362 A net360 GND n18 W=440n L=180n m=1
MNM4 net366 net362 net364 GND n18 W=440n L=180n m=1
MNM1 net360 B GND GND n18 W=440n L=180n m=1
MNM6 net364 A GND GND n18 W=440n L=180n m=1
MNM5 net364 B GND GND n18 W=440n L=180n m=1
MNM8 net365 A net367 GND n18 W=440n L=180n m=1
MNM3 net363 A GND GND n18 W=220n L=180n m=1
MNM2 net363 B GND GND n18 W=220n L=180n m=1
MNM7 net365 net363 GND GND n18 W=220n L=180n m=1
MNM9 net367 B GND GND n18 W=440n L=180n m=1
XI6 GND VDD net366 net358 / inv
XI5 GND VDD net365 net357 / inv
XI3 GND VDD net362 net353 / inv
XI4 GND VDD net363 net354 / inv
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    XOR2_TG_41
* View Name:    schematic
************************************************************************

.SUBCKT XOR2_TG_41 A B GND INVA INVB VDD Y
*.PININFO A:I B:I INVA:I INVB:I Y:O GND:B VDD:B
MNM3 INVA B Y GND n18 W=440n L=180n m=1
MNM2 A INVB Y GND n18 W=440n L=180n m=1
MPM2 INVA INVB Y VDD p18 W=440n L=180n m=1
MPM3 A B Y VDD p18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    HA_2_3
* View Name:    schematic
************************************************************************

.SUBCKT HA_2_3 A B C GND INVC S VDD
*.PININFO A:I B:I C:O INVC:O S:O GND:B VDD:B
MNM6 S net113 GND GND n18 W=220n L=180n m=1
MNM0 INVC B net123 GND n18 W=440n L=180n m=1
MNM2 net113 INVC net111 GND n18 W=440n L=180n m=1
MNM4 net111 B GND GND n18 W=440n L=180n m=1
MNM3 net111 A GND GND n18 W=440n L=180n m=1
MNM1 net123 A GND GND n18 W=440n L=180n m=1
MNM5 C INVC GND GND n18 W=220n L=180n m=1
MPM6 S net113 VDD VDD p18 W=440n L=180n m=1
MPM3 net122 B VDD VDD p18 W=880n L=180n m=1
MPM1 INVC B VDD VDD p18 W=440n L=180n m=1
MPM0 INVC A VDD VDD p18 W=440n L=180n m=1
MPM2 net113 INVC VDD VDD p18 W=440n L=180n m=1
MPM4 net113 A net122 VDD p18 W=880n L=180n m=1
MPM5 C INVC VDD VDD p18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    HA_SC
* View Name:    schematic
************************************************************************

.SUBCKT HA_SC A B COUT GND S VDD
*.PININFO A:I B:I COUT:O S:O GND:B VDD:B
MPM6 COUT net20 VDD VDD p18 W=440n L=180n m=1
MPM5 S net32 VDD VDD p18 W=440n L=180n m=1
MPM4 net32 A net51 VDD p18 W=880n L=180n m=1
MPM3 net51 B VDD VDD p18 W=880n L=180n m=1
MPM2 net32 net20 VDD VDD p18 W=440n L=180n m=1
MPM1 net20 B VDD VDD p18 W=440n L=180n m=1
MPM0 net20 A VDD VDD p18 W=440n L=180n m=1
MNM6 COUT net20 GND GND n18 W=220n L=180n m=1
MNM5 S net32 GND GND n18 W=220n L=180n m=1
MNM4 net30 B GND GND n18 W=440n L=180n m=1
MNM3 net30 A GND GND n18 W=440n L=180n m=1
MNM2 net32 net20 net30 GND n18 W=440n L=180n m=1
MNM1 net044 A GND GND n18 W=440n L=180n m=1
MNM0 net20 B net044 GND n18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: PROJLib
* Cell Name:    Multiplier
* View Name:    schematic
************************************************************************

.SUBCKT Multiplier GND O0 O1 O2 O3 O4 O5 O6 O7 VDD X0 X1 X2 X3 Y0 Y1 Y2 Y3
*.PININFO X0:I X1:I X2:I X3:I Y0:I Y1:I Y2:I Y3:I O0:O O1:O O2:O O3:O O4:O 
*.PININFO O5:O O6:O O7:O GND:B VDD:B
XI42 X2 Y2 GND VDD net209 / AND2_TG
XI47 X1 Y0 GND VDD net227 / AND2_TG
XI45 X1 Y2 GND VDD net218 / AND2_TG
XI48 X0 Y0 GND VDD O0 / AND2_TG
XI51 X0 Y3 GND VDD net213 / AND2_TG
XI38 X3 Y1 GND VDD net211 / AND2_TG
XI44 X1 Y3 GND VDD net206 / AND2_TG
XI49 X0 Y1 GND VDD net233 / AND2_TG
XI37 X3 Y2 GND VDD net198 / AND2_TG
XI50 X0 Y2 GND VDD net230 / AND2_TG
XI43 X2 Y3 GND VDD net197 / AND2_TG
XI40 X2 Y0 GND VDD net224 / AND2_TG
XI39 X3 Y0 GND VDD net217 / AND2_TG
XI41 X2 Y1 GND VDD net225 / AND2_TG
XI46 X1 Y1 GND VDD net228 / AND2_TG
XI36 X3 Y3 GND VDD net182 / AND2_TG
XI26 net220 net219 net207 net221 GND net222 VDD / MA
XI25 net210 net208 net194 net205 GND net204 VDD / MA
XI20 net211 net209 net196 net206 GND net205 VDD / MA
XI21 net224 net228 net221 net230 GND net0113 VDD / MA
XI30 net194 net193 net192 net184 GND net191 net185 O5 VDD / CSA_B
XI29 net207 net204 net202 net192 GND net203 net191 O4 VDD / CSA_B
XI53 net187 net186 net184 net179 GND net185 net059 O6 VDD / CSA_B
XI54 net180 net179 GND net056 net059 VDD O7 / XOR2_TG_41
XI35 net223 net222 net202 GND net203 O3 VDD / HA_2_3
XI52 net188 net182 net180 GND net056 net186 VDD / HA_2_3
XI24 net0111 net0113 net223 GND O2 VDD / HA_SC
XI23 net196 net195 net187 GND net193 VDD / HA_SC
XI18 net218 net213 net208 GND net219 VDD / HA_SC
XI17 net198 net197 net188 GND net195 VDD / HA_SC
XI16 net227 net233 net0111 GND O1 VDD / HA_SC
XI19 net217 net225 net210 GND net220 VDD / HA_SC
.ENDS

