************************************************************************
* auCdl Netlist:
* 
* Library Name:  PROJLib
* Top Cell Name: NAND
* View Name:     schematic
* Netlisted on:  Jan 14 20:06:30 2023
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: PROJLib
* Cell Name:    NAND
* View Name:    schematic
************************************************************************

.SUBCKT NAND A B GND VDD VOUT
*.PININFO A:I B:I VOUT:O GND:B VDD:B
MNM0 VOUT A net41 GND n18 W=440n L=180n m=1
MNM1 net41 B GND GND n18 W=440n L=180n m=1
MPM1 VOUT B VDD VDD p18 W=440n L=180n m=1
MPM0 VOUT A VDD VDD p18 W=440n L=180n m=1
.ENDS

