************************************************************************
* auCdl Netlist:
* 
* Library Name:  PROJLib
* Top Cell Name: NOR3
* View Name:     schematic
* Netlisted on:  Jan 14 02:12:43 2023
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: PROJLib
* Cell Name:    NOR3
* View Name:    schematic
************************************************************************

.SUBCKT NOR3 A B C GND VDD VOUT
*.PININFO A:I B:I C:I VOUT:O GND:B VDD:B
MNM2 VOUT C GND GND n18 W=220n L=180n m=1
MNM0 VOUT A GND GND n18 W=220n L=180n m=1
MNM1 VOUT B GND GND n18 W=220n L=180n m=1
MPM2 VOUT C net46 VDD p18 W=1.32u L=180n m=1
MPM1 net45 A VDD VDD p18 W=1.32u L=180n m=1
MPM0 net46 B net45 VDD p18 W=1.32u L=180n m=1
.ENDS

