************************************************************************
* auCdl Netlist:
* 
* Library Name:  PROJLib
* Top Cell Name: Precharger
* View Name:     schematic
* Netlisted on:  Jan 13 14:57:14 2023
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: PROJLib
* Cell Name:    Precharger
* View Name:    schematic
************************************************************************

.SUBCKT Precharger BIT INVBIT PCEN VDD
*.PININFO PCEN:I BIT:B INVBIT:B VDD:B
MPM0 VDD PCEN BIT VDD p18 W=440n L=180n m=1
MPM1 INVBIT PCEN VDD VDD p18 W=440n L=180n m=1
MPM2 BIT PCEN INVBIT VDD p18 W=440n L=180n m=1
.ENDS

